US04092311
A 2.0 portion of 6-(p-cyanophenyl)-5-methyl-3(2H)-pyridazinone and 10 ml. of phosphorus oxychloride are heated at steam bath temperature for 4 hours. The reaction mixture is poured into crushed ice and the resulting solid, after decomposition of the unreacted phosphorus oxychloride, is recovered by filtration, washed with water and dried. This product is recrystallized several times from methanol giving 6-(p-cyanophenyl)-5-methyl-3-chloropyridazine, m.p. 218°-220° C.

reactant | 6-(p-cyanophenyl)-5-methyl-3(2H)-pyridazinone | C(#N)C1=CC=C(C=C1)C=1C(=CC(NN1)=O)C | C12H9N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(p-cyanophenyl)-5-methyl-3-chloropyridazine | C(#N)C1=CC=C(C=C1)C1=C(C=C(N=N1)Cl)C | C12H8ClN3
